US07449475B2
(iv) 4H-Spiro[chromene-3,4′-piperidine]
1′-benzyl-4H-spiro[chromene-3,4′-piperidine] (800 mg, 2.7 mmol) was dissolved in methanol (100 mL). Acetic acid (5 mL) and palladium on activated charcoal (cat amount, 10%) was added. Reaction in a Parr apparatus at 35 psi for 18 hrs, followed by filtration, evaporation and HPLC purification on C18 (acetonitrile/water) yielded 500 mg (92%) of the title compound.

reactant | 1′-benzyl-4H-spiro[chromene-3,4′-piperidine] | 2.7 mmol, 800 mg | C(C1=CC=CC=C1)N1CCC2(CC1)COC1=CC=CC=C1C2 | C20H23NO
reactant | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on activated charcoal | [Pd] | Pd
product | 4H-Spiro[chromene-3,4′-piperidine] | 500 mg, 92% | N1CCC2(CC1)COC1=CC=CC=C1C2 | C13H17NO
